US06291455B1
A mixture of 4-hydroxy-3-methoxybenzoic acid (4.5 g, 26.8 mmol), 3-morpholinopropyl chloride (9.5 g, 58.0 mmol), (prepared according to J. Am. Chem. Soc. 1945, 67, 736), potassium carbonate (8.0 g, 58 mmol), potassium iodide (1.0 g, 0.22 mmol) and DMF (80 ml) was stirred and heated at 100° C. for 3 hours. The solid was removed by filtration and the filtrate evaporated. The residue was dissolved in ethanol (50 ml), 2 M sodium hydroxide (50 ml) was added and the mixture heated at 90° C. for 2 hours. After partial evaporation, the mixture was acidified with concentrated hydrochloric acid, washed with ether and then subjected to purification on a Diaion (trade mark of Mitsubishi) HP20SS resin column, eluting with water and then with a gradient of methanol (0 to 25%) in hydrochloric acid (pH2). Partial evaporation of the solvents and lyophilisation gave 3-methoxy-4-(3-morpholinopropoxy)benzoic acid (8.65 g, 97%).

reactant | 4-hydroxy-3-methoxybenzoic acid | 26.8 mmol, 4.5 g | OC1=C(C=C(C(=O)O)C=C1)OC | C8H8O4
reactant | 3-morpholinopropyl chloride | 58.0 mmol, 9.5 g | O1CCN(CC1)CCCCl | C7H14ClNO
reactant | potassium carbonate | 58 mmol, 8.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.22 mmol, 1.0 g | [I-].[K+]
solvent | DMF | 80 ml | CN(C)C=O | C3H7NO
product | 3-methoxy-4-(3-morpholinopropoxy)benzoic acid | 8.65 g, 97% | COC=1C=C(C(=O)O)C=CC1OCCCN1CCOCC1 | C15H21NO5
